US05420141
2-{[1-(1-Naphthyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolyl]-carbonylamino}-2-adamantanecarboxylic acid.
0.107 g of sodium hydroxide in 1.36 ml of water and 0.51 ml of tetrahydrofuran are cooled to 0° C. 0.52 g of 2-amino-2-adamantanecarboxylic acid is added in a single portion, and 0.53 g of 1-(1-naphthyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolecarbonyl chloride, dissolved in 3 ml of tetrahydrofuran, is then added dropwise. The mixture is left for 10 minutes, and the same amount of the above acid chloride, in 3 ml of tetrahydrofuran, is added again; simultaneously, 1.32 ml of 2N sodium hydroxide are added. The reaction mixture is left for 4 days at room temperature; successively, ice-cold water is added and concentrated hydrochloric acid is added to pH 1, and the precipitate is filtered off. The crystals are washed with diisopropyl ether.

reactant | sodium hydroxide | 0.107 g | [OH-].[Na+]
reactant | 2-amino-2-adamantanecarboxylic acid | 0.52 g | NC1(C2CC3CC(CC1C3)C2)C(=O)O | C11H17NO2
reactant | 1-(1-naphthyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolecarbonyl chloride | 0.53 g | C1(=CC=CC2=CC=CC=C12)N1N=C(C=C1C1=C(C=CC=C1OC)OC)C(=O)Cl | C22H17ClN2O3
reactant | sodium hydroxide | 2N, 1.32 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1.36 ml | O | H2O
solvent | tetrahydrofuran | 0.51 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-{[1-(1-Naphthyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolyl]-carbonylamino}-2-adamantanecarboxylic acid | C1(=CC=CC2=CC=CC=C12)N1N=C(C=C1C1=C(C=CC=C1OC)OC)C(=O)NC1(C2CC3CC(CC1C3)C2)C(=O)O | C33H33N3O5
